US06239152B1
5-(S)-Azidomethyloxazolidine-2-one
5-(R)-Chloromethyloxazolidine-2-one (prepared according to [Danielmeier et al. Efficient Pathways to (R)- and (S)-hydroxymethyl-2-oxazolidinone and some derivatives. Tetrahedron: Asymmetry. 1995, vol. 6, pp. 1181-1190] (5 mmol) is reacted with sodium azide (7-10 mmol) in acetone (ca. 40-50 mL) at r.t. for ca. 24 h (until the reaction is completed). Solids are filtered off, and supernatant evaporated under vacuum to afford the product which is immediately used for the next step. Optionally, the synthesis is performed in dry N,N-dimethylformamide under inert atmosphere with sodium azide (5-10 mmol) or tetrabutylammonium azide (5-10 mmol), and the resulting solution of the crude 5-(S)-azidomethyloxazolidine-2-one is employed for the next step without solvent removal.

reactant | 5-(R)-Chloromethyloxazolidine-2-one | ClC[C@H]1CNC(O1)=O | C4H6ClNO2
reactant | sodium azide | 7-10 mmol | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 5-10 mmol | [N-]=[N+]=[N-].[Na+]
reactant | tetrabutylammonium azide | 5-10 mmol | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | ca. 40-50 mL | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(S)-Azidomethyloxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CNC(O1)=O | C4H6N4O2
